US08664216B2
To a stirred solution of 2-bromo-5-fluorobenzoic acid (5.0 g, 21.9 mmol) at −70° C. in tetrahydrofuran (30 ml) was added dropwise a 1.6M n-butyllithium solution in hexane (44 ml, 70.1 mmol) over a period of 1 hour. After 3 hours, a solution of 1-benzyl-4-piperidone (8.5 g, 43.8 mmol) in tetrahydrofuran (20 ml) was added dropwise. The mixture was allowed to warm to room temperature and stirred overnight. The mixture was poured into a stirred mixture of water (150 ml) and ether (150 ml). The aqueous layer was extracted with ether (2×40 ml), acidified with HCl 5 N (20 ml) to pH 2 and boiled for 1 hour. The mixture was cooled to 0° C., basified (pH 10) with NaOH 5 N and rapidly extracted with dichloromethane (3×80 ml). The combined extracts were washed with water (80 ml), dried over Na2SO4, filtered and concentrated in vacuo. The crude oil was chromatographed on silica gel (eluent: heptane/ethylacetate 1:1) to yield 2.27 g (33%) of 1′-benzyl-5-fluoro-3H-spiro[2-benzofuran-1,4′-piperidin]-3-one as light yellow solid. MS m/e: 312 (M+H+).

reactant | 2-bromo-5-fluorobenzoic acid | 21.9 mmol, 5.0 g | BrC1=C(C(=O)O)C=C(C=C1)F | C7H4BrFO2
reactant | n-butyllithium | 1.6M | C(CCC)[Li]
reactant | hexane | 70.1 mmol, 44 ml | CCCCCC | C6H14
reactant | 1-benzyl-4-piperidone | 43.8 mmol, 8.5 g | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | ether | 150 ml | CCOCC | C4H10O
solvent | water | 150 ml | O | H2O
product | 1′-benzyl-5-fluoro-3H-spiro[2-benzofuran-1,4′-piperidin]-3-one | 2.27 g, 33% | C(C1=CC=CC=C1)N1CCC2(CC1)OC(C1=C2C=CC(=C1)F)=O | C19H18FNO2
